US07109354B2
b) 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid isopropyl ester
A 2-dram vial with a septa-containing screwcap was charged with a stirbar, 3-bromo-2-methyl-benzoic acid isopropyl ester ((Example 3: step a) 257 mg, 1 mmol), PdCl2(PPh3)2 (42 mg, 0.06 mmol), dioxane (4 mL), and triethylamine (420 μL, 3 mmol). Upon dissolution, 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (220 μL, 1.5 mmol) was added and the solution was vigorously stirred for 16 h at 100° C. After cooling to rt, EtOAc (30 mL) and water (10 mL) were added (gas evolution!) and the layers were separated. The organic layer was washed with NaHCO3 (2×10 mL), brine (10 mL), and was dried over sodium sulfate. Removal of the solvents in vacuo followed by SiO2 flash chromatography of the residue yielded the title compound (130 mg, 43%) as a light-yellow glass. 1H-NMR (CDCl3): δ 7.86 (dd, 1H, J=1.4, 7.4 Hz), 7.80 (dd, 1H, J=1.6, 7.7 Hz), 7.23 (t, 1H, J=7.7 Hz), 5.26 (heptet, 1H, J=6.3 Hz), 2.75 (s, 3H), 1.37 (m, 18H).

reactant | 3-bromo-2-methyl-benzoic acid isopropyl ester | C(C)(C)OC(C1=C(C(=CC=C1)Br)C)=O | C11H13BrO2
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
reactant | triethylamine | 3 mmol, 420 μL | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.5 mmol, 220 μL | CC1(OBOC1(C)C)C | C6H13BO2
catalyst | PdCl2(PPh3)2 | 0.06 mmol, 42 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid isopropyl ester | 130 mg, 43% | C(C)(C)OC(C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C17H25BO4
